US05780483
Synthesis of N-(2-hydroxy-4-azidophenyl)-N'-(2-methoxyphenyl)urea
The N-(2-hydroxy-4-aminophenyl)-N'-(2-methoxyphenyl)urea (300 mg, 1.17 mmol) was added to HCl/H2O (1.17 mL/2.34 mL), cooled to 0° C. Sodium nitrite (80.7 mg, 1.17 mmol) was added to the reaction mixture. The reaction mixture was stirred at 0° C. for 30 minutes. The sodium azide (76 mg, 1.17 mmol) was added to reaction mixture and it was warmed to room temperature. The reaction mixture was stirred at room temperature for 18 hours. Then it was extracted with three times by ethyl acetate. The organic extracts were combined, dried over MgSO4, filtered and concentrated under reduced pressure and chromatography of the resulting solid on silica gel (hexane:ethyl acetate; 5:1) gave product (125 mg, 38%). EI-MS m/z 300 (M+H)+

reactant | N-(2-hydroxy-4-aminophenyl)-N'-(2-methoxyphenyl)urea | 1.17 mmol, 300 mg | OC1=C(C=CC(=C1)N)NC(=O)NC1=C(C=CC=C1)OC | C14H15N3O3
reactant | HCl H2O | 1.17 mL | Cl.O
reactant | Sodium nitrite | 1.17 mmol, 80.7 mg | N(=O)[O-].[Na+]
reactant | sodium azide | 1.17 mmol, 76 mg | [N-]=[N+]=[N-].[Na+]
product | N-(2-hydroxy-4-azidophenyl)-N'-(2-methoxyphenyl)urea | 125 mg, 38% | OC1=C(C=CC(=C1)N=[N+]=[N-])NC(=O)NC1=C(C=CC=C1)OC | C14H13N5O3
